US05686458
Preparation 1-9: 3-Methyl-1,2,3,4-Tetrahydroisoquinoline
3.0 g of 3-methylisoquinoline(21 mM) and 50 ml of methanol were mixed and 0.84 g of platinum oxide was added thereto. The mixture was subjected to hydrogenation at 40 psi and filtered. The filtrate was concentrated under a reduced pressure, to give 3.3 g of the title compound.

reactant | 3-methylisoquinoline | 21 mM, 3.0 g | CC=1N=CC2=CC=CC=C2C1 | C10H9N
catalyst | platinum oxide | 0.84 g | [Pt]=O
solvent | methanol | 50 ml | CO | CH4O
product | 3-Methyl-1,2,3,4-Tetrahydroisoquinoline | 3.3 g | CC1NCC2=CC=CC=C2C1 | C10H13N
